US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [1-methyl-3-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-1H-pyrazol-4-yl]-amide
According to the general method described in step 5 of example 27, reaction of 2-oxa-6-aza-spiro[3.3]heptane with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (5%) as sticky yellow solid.

reactant | 2-oxa-6-aza-spiro[3.3]heptane | C1OCC12CNC2 | C5H9NO
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [1-methyl-3-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-1H-pyrazol-4-yl]-amide | 5% | CN1N=C(C(=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C(=O)N1CC2(COC2)C1 | C23H24N8O3
